US05985909
A suspension of N-[(butoxycarbonyl)methyl]-2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl)indole-6-carboxamide (70 mg, 0.14 mmol) in HCl-saturated dioxane (20 mL) was stirred at 20° C. for 2 h, most of the dioxane evaporated, and the residue triturated with hot EtOAc to give N-(carboxymethyl)-2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]indole-6-carboxamide as a pale yellow powder (50 mg, 80%), mp 281° C. (dec.). 1H NMR [(CD3)2SO] δ12.57 (br s, 1H, CO2H), 12.20 (d, J=1.3 Hz, 1H, indole NH), 8.99 (d, J=2.2 Hz, 1H, H-7), 8.84 (t, J=5.9 Hz, 1H, amide NH), 8.07 (s, 1H, H-3' or H-7'), 8.05 (dd, J=8.3, 2.2 Hz, 1H, H-5), 7.79 (d, J=8.4 Hz, 1H, H-4'), 7.75 (d, J=8.3 Hz, 1H, H-4), 7.61 (dd, J=8.4, 1.3 Hz, 1H, H-5'), 7.30 (d, J=1.9 Hz, 1H, H-3' or H-7'), 4.87 (t, J=10.1Hz, 1H, H-2), 4.51 (dd, J=10.7, 5.2 Hz, 1H, H-2), 4.19-4.08 (m, 3H, H-3 and CH2Cl), 3.95 (d, J=5.8 Hz, 2H, CONHCH2). Anal. (C23H17ClN4O6) C, H, N.

reactant | N-[(butoxycarbonyl)methyl]-2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl)indole-6-carboxamide | 0.14 mmol, 70 mg | C(CCC)OC(=O)CNC(=O)C1=CC=C2C=C(NC2=C1)C(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])CCl | C25H25ClN4O6
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 20 mL | Cl | ClH
product | N-(carboxymethyl)-2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]indole-6-carboxamide | 50 mg, 80% | C(=O)(O)CNC(=O)C1=CC=C2C=C(NC2=C1)C(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])CCl | C21H17ClN4O6
